US05116829
9-Fluoro-21-[2-(formylamino)-4-methylthio-1-oxobutylthio]-11β-hydroxy-16β-methyl-17-(1-oxopropyloxy)-pregna-1,4-diene-3,20-dione (Compound No. 8)
The title compound (0.47 gm) was prepared from 9-fluoro-11 hydroxy-16β-methyl-17-(1-oxopropyloxy)-pregna-1,4-diene-3,20-dione-21-thiol (0.80 gm) and N-formyl-L-methionine (0.99 gm) in the same manner as in Synthetic Example 1.

reactant | 9-fluoro-11 hydroxy-16β-methyl-17-(1-oxopropyloxy)-pregna-1,4-diene-3,20-dione-21-thiol | 0.80 gm | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@@H]([C@](C(CS)=O)([C@]1(CC2O)C)OC(CC)=O)C)=O)C | C25H33FO5S
reactant | N-formyl-L-methionine | 0.99 gm | C(=O)N[C@@H](CCSC)C(=O)O | C6H11NO3S
product | 9-Fluoro-21-[2-(formylamino)-4-methylthio-1-oxobutylthio]-11β-hydroxy-16β-methyl-17-(1-oxopropyloxy)-pregna-1,4-diene-3,20-dione | 0.47 gm | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@@H]([C@](C(CSC(C(CCSC)NC=O)=O)=O)([C@]1(C[C@@H]2O)C)OC(CC)=O)C)=O)C | C31H42FNO7S2
